US08580798B2
4-{4-[3-(6-tert-Butylpyrimidin-4-yl)ureido]-3-fluorophenoxy}pyridine-2-carboxylic acid amide
A mixture of 1-(6-tert-butylpyrimidin-4-yl)-3-[4-(2-cyanopyridin-4-yloxy)-2-fluoro-phenyl]urea (141 mg, 0.35 mmol) and sodium percarbonate (with 25% H2O2) (218 mg, 1.4 mmol, 4.0 eq) in 2:1 v/v acetone/water (11 mL) was stirred at 60° C. for 16 h. The reaction was partitioned between ethyl acetate and water, and the aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with water and brine, dried over sodium sulfate, filtered, and evaporated under reduced pressure. Trituration from methanol afforded the title compound (63 mg, 43%) as a white solid. 1H-NMR (DMSO-d6) 10.32 (broad s, 1H), 10.08 (broad s, 1H), 8.75 (d, J=1.2 Hz, 1H), 8.51 (d, J=5.4 Hz, 1H), 8.23 (t, J=9.3 Hz, 1H), 8.12 (broad s, 1H), 7.71 (broad s, 1H), 7.61 (d, J=1.2 Hz, 1H), 7.40 (d, J=2.4 Hz, 1H), 7.36 (dd, J=11.4, 2.4 Hz, 1H), 7.18 (dd, J=5.7, 2.7 Hz, 1H), 7.08 (ddd, J=9.0, 2.7, 1.5 Hz, 1H), 1.26 (s, 9H); LC-MS m/z 425 [M+H]+, RT=3.16 min.

reactant | 1-(6-tert-butylpyrimidin-4-yl)-3-[4-(2-cyanopyridin-4-yloxy)-2-fluoro-phenyl]urea | 0.35 mmol, 141 mg | C(C)(C)(C)C1=CC(=NC=N1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C#N)F | C21H19FN6O2
reactant | sodium percarbonate | 1.4 mmol, 218 mg, 4.0 eq | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
solvent | acetone water | 11 mL | CC(=O)C.O
product | 4-{4-[3-(6-tert-Butylpyrimidin-4-yl)ureido]-3-fluorophenoxy}pyridine-2-carboxylic acid amide | 63 mg, 43% | C(C)(C)(C)C1=CC(=NC=N1)NC(NC1=C(C=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)=O | C21H21FN6O3
